US05516774
6,7-Dihydro-5-(4-aminobenzoyl)-5H-pyrrolo[1,2-a][1,5]benzodiazepine
A mixture of 2.0 g of 6,7-dihydro-5-(4-nitrobenzoyl)-5H-pyrrolo[1,2-a][1,5]benzodiazepine, 20 ml of ethyl alcohol and 20 ml of ethyl acetate containing 0.2 g of 10% Pd/C is hydrogenated for 5 hours. The reaction mixture is filtered through a pad of diatomaceous earth. The filtrate is concentrated in vacuo to a solid which is purified by flash chromatography on silica gel to give the desired product.

reactant | 6,7-dihydro-5-(4-nitrobenzoyl)-5H-pyrrolo[1,2-a][1,5]benzodiazepine | 2.0 g | [N+](=O)([O-])C1=CC=C(C(=O)N2CCC=3N(C4=C2C=CC=C4)C=CC3)C=C1 | C19H15N3O3
reactant | ethyl alcohol | 20 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
solvent | ethyl acetate | 20 ml, 0.2 g | C(C)(=O)OCC | C4H8O2
product | 6,7-Dihydro-5-(4-aminobenzoyl)-5H-pyrrolo[1,2-a][1,5]benzodiazepine | NC1=CC=C(C(=O)N2CCC=3N(C4=C2C=CC=C4)C=CC3)C=C1 | C19H17N3O
